* P-channel JFET source follower (common-drain) with 2N5460

* Supply voltage
VDD vd  0 DC -9
Vi  vi 0 SINE(-4.5 2 60 0 0 0 10)

* Input coupling capacitor
C12 vi vg 22n

* Gate bias resistor
R11 vg  0 1Meg

* Source resistor
R13 vs  0 10k

* Output coupling capacitor
C13 vs vo 10u

* Load resistor
RL vo 0 100k

* JFET
J1 vd vg vs 2N5460

* 2N5460 model
.model 2N5460 PJF(BETA=2m VTO=-1)

Escale1 vi_scaled 0 value = {V(vi)*0.1} ; netlist_skip
Escale2 vo_scaled 0 value = {V(vo)*0.5} ; netlist_skip

.tran 0 100m 0 1.0u
.wav "vin.wav" 32 48k V(vi_scaled)
.wav "vout.wav" 32 48k V(vo_scaled)
.options plotwinsize=0
.backanno
.end
